US04612318
1,3-Diphenyl-4-cyclohexenyl-5-pyrazolamine
It is obtained by essentially following the procedure of example 1, reacting 1,3-diphenyl-5-pyrazolamine (1 mole) with cyclohexanone (1.1 mole) at a temperature of about 80° C. for about 4 hours. M.p. 115°-117° C.

reactant | 1,3-diphenyl-5-pyrazolamine | 1 mole | C1(=CC=CC=C1)N1N=C(C=C1N)C1=CC=CC=C1 | C15H13N3
reactant | cyclohexanone | 1.1 mole | C1(CCCCC1)=O | C6H10O
product | 1,3-Diphenyl-4-cyclohexenyl-5-pyrazolamine | C1(=CC=CC=C1)N1N=C(C(=C1N)C1=CCCCC1)C1=CC=CC=C1 | C21H21N3
